US07504410B2
18b) 3-[[5-Bromo-4-(prop-2-ynyloxy)pyrimidin-2-yl]amino]-5-[(2-hydroxyethyl)amino]benzoic acid
Methyl3-[[5-bromo-4-(prop-2-ynyloxy)pyrimidin-2-yl]amino]-5-[(2-hydroxyethyl)amino]benzoate (350 mg) in a mixture of tetrahydrofuran (6 ml) and sodium hydroxide solution (2 n; 6 ml) was stirred for 48 h at room temperature. After evaporation the residue was diluted with water and acidified until the product precipitated Filtration and drying yielded the title compound (340 mg).

reactant | Methyl3-[[5-bromo-4-(prop-2-ynyloxy)pyrimidin-2-yl]amino]-5-[(2-hydroxyethyl)amino]benzoate | 350 mg | COC(C1=CC(=CC(=C1)NCCO)NC1=NC=C(C(=N1)OCC#C)Br)=O | C17H17BrN4O4
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 6 ml | [OH-].[Na+]
product | 3-[[5-Bromo-4-(prop-2-ynyloxy)pyrimidin-2-yl]amino]-5-[(2-hydroxyethyl)amino]benzoic acid | 340 mg | BrC=1C(=NC(=NC1)NC=1C=C(C(=O)O)C=C(C1)NCCO)OCC#C | C16H15BrN4O4
